US09125901B2
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide (EDC, 791 mg) is added to a solution of N1-(2-methoxyethyl)benzene-1,2-diamine (311 mg, 1.87 mmol) and methyl 4-isothiocyanatobenzoate (328 mg, 1.70 mmol) in tetrahydrofuran. The reaction may be heated to reflux for 2 hr and cooled to room temperature. The mixture may be diluted in an appropriate solvent such as ethyl acetate, filtered and concentrated. The residue may be purified by any appropriate method, including Biotage column chromatography to give methyl 4-(1-(2-methoxyethyl)-1H-benzo[d]imidazol-2-ylamino)benzoate (381 mg).

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide | 791 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N1-(2-methoxyethyl)benzene-1,2-diamine | 1.87 mmol, 311 mg | COCCNC=1C(=CC=CC1)N | C9H14N2O
reactant | methyl 4-isothiocyanatobenzoate | 1.70 mmol, 328 mg | N(=C=S)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-(1-(2-methoxyethyl)-1H-benzo[d]imidazol-2-ylamino)benzoate | 381 mg | COCCN1C(=NC2=C1C=CC=C2)NC2=CC=C(C(=O)OC)C=C2 | C18H19N3O3
